US04394384
To a solution of 2-(2-cyclopenten-1-yl)oxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (2.8 g) in ethyl acetate (30 ml) was added bis(trimethylsilyl)acetamide (5.0 g) with stirring under ice-cooling. The mixture was stirred for 10 minutes at room temperature and then cooled to -10° C. 2,2,2-Trifluoroacetic anhydride (7.5 g) was dropwise added thereto, keeping the temperature at -10° C. The resulting mixture was stirred at the same temperature for 20 minutes and at 0° to 5° C. for 2 hours and then cooled to -10° C. After the addition of water (30 ml) and ethyl acetate (20 ml) to the reaction mixture, the pH was adjusted to 1.5 with a saturated aqueous solution of sodium bicarbonate. The ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then evaporated. The residue was washed with a mixture of diisopropyl ether and hexane to give 2-(2-cyclopenten-1-yl)oxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetic acid (syn isomer) (1.8 g).

reactant | 2-(2-cyclopenten-1-yl)oxyimino-2-(2-aminothiazol-4-yl)acetic acid | 2.8 g | C1(C=CCC1)ON=C(C(=O)O)C=1N=C(SC1)N | C10H11N3O3S
reactant | bis(trimethylsilyl)acetamide | 5.0 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2,2,2-Trifluoroacetic anhydride | 7.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | 2-(2-cyclopenten-1-yl)oxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetic acid | 1.8 g | C1(C=CCC1)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C12H10F3N3O4S
